US07906652B2
Step 1: 3-[(S)-{3-[(1S)-1-(3-bromo-5-fluorophenyl)-2-fluoro-2-methylpropyl]azetidin-1-yl}(4-chlorophenyl)methyl]-N′-hydroxybenzenecarboximidamide
The mixture of 240 mg (0.45 mmol) of 3-[(S)-{3-[(1S)-1-(3-bromo-5-fluorophenyl)-2-fluoro-2-methylpropyl]azetidin-1-yl}(4-chlorophenyl)methyl]benzonitrile, 47.2 mg (0.68 mmol) of hydroxylamine hydrochloride, 0.124 mL (0.9 mmol) of triethylamine, and 5 mL of ethanol was heated to reflux for 4 h. The solution was concentrated and the residue was poured into 20 mL of CH2Cl2 and 5 mL of aq NaHCO3 (PH>7). The aqueous layer was extracted with two 10 mL portions of CH2Cl2. The combined organic layer was dried over Na2SO4 and concentrated to afford the title compound as a white solid; Mass Spectrum: m/e=562 (M+1, 35Cl), 564 (M+1, 37Cl).

reactant | 3-[(S)-{3-[(1S)-1-(3-bromo-5-fluorophenyl)-2-fluoro-2-methylpropyl]azetidin-1-yl}(4-chlorophenyl)methyl]benzonitrile | 0.45 mmol, 240 mg | BrC=1C=C(C=C(C1)F)[C@@H](C(C)(C)F)C1CN(C1)[C@H](C=1C=C(C#N)C=CC1)C1=CC=C(C=C1)Cl | C27H24BrClF2N2
reactant | hydroxylamine hydrochloride | 0.68 mmol, 47.2 mg | Cl.NO
reactant | triethylamine | 0.9 mmol, 0.124 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3-[(S)-{3-[(1S)-1-(3-bromo-5-fluorophenyl)-2-fluoro-2-methylpropyl]azetidin-1-yl}(4-chlorophenyl)methyl]-N′-hydroxybenzenecarboximidamide | BrC=1C=C(C=C(C1)F)[C@@H](C(C)(C)F)C1CN(C1)[C@H](C=1C=C(C=CC1)C(N)=NO)C1=CC=C(C=C1)Cl | C27H27BrClF2N3O
